US09428460B2
N-({trans-4-[(8-fluoroquinolin-4-yl)oxy]cyclohexyl}methyl)-4-fluorobenzamide
{trans-4-[(8-Fluoroquinolin-4-yl)oxy]cyclohexyl}methylamine (1.82 g mg, 6.63 mmol) was dissolved in tetrahydrofuran (415 mL). After adding HATU (2.78 g, 7.30 mmol), diisopropylethylamine (1.30 mL, 7.30 mmol) and 4-fluorobenzoic acid (1.02 g, 7.30 mmol), the reaction mixture was stirred overnight at room temperature. After chromatography, the desired product was obtained at 71% yield (1.96 g).

reactant | {trans-4-[(8-Fluoroquinolin-4-yl)oxy]cyclohexyl}methylamine | 6.63 mmol, 1.82 g | FC=1C=CC=C2C(=CC=NC12)O[C@@H]1CC[C@H](CC1)CN | C16H19FN2O
reactant | HATU | 7.30 mmol, 2.78 g | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=N2)N=N1.F[P-](F)(F)(F)(F)F
reactant | diisopropylethylamine | 7.30 mmol, 1.30 mL | C(C)(C)N(CC)C(C)C | C8H19N
reactant | 4-fluorobenzoic acid | 7.30 mmol, 1.02 g | FC1=CC=C(C(=O)O)C=C1 | C7H5FO2
solvent | tetrahydrofuran | 415 mL | O1CCCC1 | C4H8O
product | N-({trans-4-[(8-fluoroquinolin-4-yl)oxy]cyclohexyl}methyl)-4-fluorobenzamide | 71% yield | FC=1C=CC=C2C(=CC=NC12)O[C@@H]1CC[C@H](CC1)CNC(C1=CC=C(C=C1)F)=O | C23H22F2N2O2
